US08648087B2
Step C: Preparation of 4-(4-amino-2-methylphenoxy)-N1-methylbenzene-1,2-diamine:
To a solution of N-methyl-4-(2-methyl-4-nitrophenoxy)-2-nitrobenzenamine (1.90 g, 6.27 mmol) in ethyl acetate (10 mL) and ethanol (20 mL) was added 10% Pd/C (0.342 g, 0.321 mmol). After shaking under 50 psi of hydrogen for 1 hour, the mixture was filtered and the filtrate was concentrated under reduced pressure to provide the product as clear oil.

reactant | N-methyl-4-(2-methyl-4-nitrophenoxy)-2-nitrobenzenamine | 6.27 mmol, 1.90 g | CNC1=C(C=C(C=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C)[N+](=O)[O-] | C14H13N3O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.321 mmol, 0.342 g | [Pd] | Pd
product | 4-(4-amino-2-methylphenoxy)-N1-methylbenzene-1,2-diamine | NC1=CC(=C(OC=2C=C(C(=CC2)NC)N)C=C1)C | C14H17N3O
